US07781426B2
To a solution of 5-[[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethoxy)phenyl](ethyl)amino]pentanal (6.8 mg, 0.011 mmol) in THF (20 μL) and t-BuOH (60 μL) was added 2-methyl-2-butene (20 μL), followed by a solution of NaClO2 (3.0 mg, 0.024 mmol) and NaH2PO4 (3.5 mg, 0.024 mmol) in water (25 μL). The reaction was stirred at room temperature for 30 minutes and then diluted with EtOAc (8 mL) and water (2 mL), acidified with 1 N HCl (2 mL), and washed with brine (5 mL). The organic layer was dried over Na2SO4, filtered, and concentrated. Purification of the residue by PTLC (EtOAc) afforded 5-[[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethoxy)phenyl](ethyl)amino]pentanoic acid. Rf=0.20 (EtOAc). LCMS=631.3 (M+1)+. 1H NMR (CDCl3, 500 MHz) δ 7.88 (s, 1H), 7.78 (s, 2H), 7.18-7.15 (m, 3H), 5.73 (d, J=8.0 Hz, 1H), 4.75 (d, J=16.5 Hz, 1H), 4.58 (m, 1H), 4.03 (s, 1H), 2.97 (m, 4H), 2.31 (t, J=7.3 Hz, 2H), 1.40-1.23 (m, 5H), 1.00 (t, J=6.7 Hz, 3H), 0.69 (d, J=6.4 Hz, 3H).

reactant | 5-[[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethoxy)phenyl](ethyl)amino]pentanal | 0.011 mmol, 6.8 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)OC(F)(F)F)N(CCCCC=O)CC)C)(F)F | C27H27F9N2O4
reactant | 2-methyl-2-butene | 20 μL | CC(C)=CC | C5H10
reactant | NaClO2 | 0.024 mmol, 3.0 mg | [O-]Cl=O.[Na+]
reactant | HCl | 1 N, 2 mL | Cl | ClH
solvent | THF | 20 μL | C1CCOC1 | C4H8O
solvent | t-BuOH | 60 μL | CC(C)(C)O | C4H10O
solvent | water | 25 μL | O | H2O
solvent | EtOAc | 8 mL | CCOC(=O)C | C4H8O2
solvent | water | 2 mL | O | H2O
product | 5-[[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethoxy)phenyl](ethyl)amino]pentanoic acid | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)OC(F)(F)F)N(CCCCC(=O)O)CC)C)(F)F | C27H27F9N2O5
